US08314100B2
1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine (Compound 122)
Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate and 1-(2-cyanophenyl)piperazine were reacted by the same way with the example 106 to obtain the titled compound (yield, 89%). 1H NMR (300 MHz, CDCl3): δ 3.30 (s, 4H), 3.84 (s, 3H), 4.14 (s, 3H), 7.02-7.10 (m, 2H), 7.35-7.89 (m, 6H).

reactant | Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12ClN3O3
reactant | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | 1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine | 89% | ClC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)OC | C21H19ClN6O2
